US03953449
10.6 G. (0.07 mol) of methyl anthranilate, 12.1 g. (0.05 mol) of 2-(4-m-chlorophenylpiperazino)-ethanol, 150 ml. of dry toluene and 0.09 g. of sodium are heated in a distillation apparatus for 2 1/2 hours on an oil bath, while slowly distilling the methanol eliminated in the transesterification reaction. The toluene solution is filtered while hot to remove a small amount of insoluble matter, the toluene is evaporated from the filtrate, and the residue is triturated in petroleum ether, filtered and recrystallised from isopropyl alcohol to give 13 g. (yield = 72%) of 2-(4-m-chlorophenylpiperazino)-ethyl anthranilate, which melts at 77°C., and which is found to be identical to the product prepared in Example 18 using a mixed melting point.

reactant | methyl anthranilate | 0.07 mol | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | 2-(4-m-chlorophenylpiperazino)-ethanol | 0.05 mol | ClC=1C=C(C=CC1)N1CCN(CC1)CCO | C12H17ClN2O
reactant | sodium | [Na] | Na
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-m-chlorophenylpiperazino)-ethyl anthranilate | yield = 72% | C(C=1C(N)=CC=CC1)(=O)OCCN1CCN(CC1)C1=CC(=CC=C1)Cl | C19H22ClN3O2
